US06875769B2
8-(1-Ethyl-propoxy)-6-methyl-4-(2,4,6-trimethyl-phenyl)-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one
To a cooled solution of 2-chloro-N-[4-(1-ethyl-propoxy)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-pyridin-3-yl]-acetamide (40 mg, 0.099 mmol) in dry THF was added 1.0 M lithium bistrimethylsilyl amide (LiN(SiMe3)2) in THF (0.3 ml, 0.3 mmol) at −78° C. and stirred at that temperature for 1 hour, then warmed to room temperature for 30 min. The mixture was quenched with water and extracted with ethyl acetate. The organic layer was dried and concentrated to give 38 mg of the title compound as a tan crystals. The crystals were purified through silica gel column chromatography using 5% ethyl acetate in hexane as eluent to give 29 mg (81%) of the title compound as a white crystal, mp 179-181° C. 1H NMR (CDCl3) δ 7.75(s,1H), 6.95(s,2H), 6.09(s,1H), 4.22(s,2H), 4.22(m,1H), 2.32(s,3H), 2.17(s,3H), 2.16(s,6H), 1.71(m,4H), 0.97(m,6H)ppm.

reactant | 2-chloro-N-[4-(1-ethyl-propoxy)-6-methyl-2-(2,4,6-trimethyl-phenylamino)-pyridin-3-yl]-acetamide | 0.099 mmol, 40 mg | ClCC(=O)NC=1C(=NC(=CC1OC(CC)CC)C)NC1=C(C=C(C=C1C)C)C | C22H30ClN3O2
reactant | lithium bistrimethylsilyl amide | 1.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 0.3 mmol, 0.3 ml | C1CCOC1 | C4H8O
product | 8-(1-Ethyl-propoxy)-6-methyl-4-(2,4,6-trimethyl-phenyl)-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 38 mg | C(C)C(CC)OC1=CC(=NC=2N(CC(NC21)=O)C2=C(C=C(C=C2C)C)C)C | C22H29N3O2
